datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[S+:61](C)[CH-:10][C:71]#[N:72]>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([CH:10]([S+:61](C)C)[C:71]#[N:72])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.FC1=C(F)C(F)=C([B-:11](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[H:10])C(F)=C1F>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.FC1=C(F)C(F)=C([B:11](C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)C(F)=C1F 10,11=10,20;20,21=21,22;22,23=23"
"C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23].C[Si](C)(C)[O:71][C:10]1=[C:11]([O:12][Si:63](C)(C)C)CCCC1>>C[Si](C)(C)[O:71][C:10]1([CH2:20][CH:21]=[C:22]([O-:23])[N:33](C)C)CCCC[C:11]1=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[NH:10][N:61](C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[NH+:10]([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[N:61](C)C 10=20
"C[O:33][C:22]([CH:21]=[CH2:20])=[O:23].N#CC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>C[O:33][C:22](=[CH:21][CH2:20][CH:10](Cl)[S:61](C1=CC=C(C#N)C=C1)(=[O:62])=[O:72])[O-:23] 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>CC(C)(C)[C:64]1=[CH:63][CH:62]=[C:61]([O:10][CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"C/[C:11](=[C:10]1\CCC[O:72][C:61]1=[O:62])[O-:12].C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1>>C[C:11]([C:10]1([CH:20]2CCCC[C:22]([O-:23])=[CH:21]2)CCC[O:72][C:61]1=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21].[CH:10](=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)\[N+:81](=[O:82])[O-:92]>>F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1([CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[N+:81](=[O:82])[O-:92])[O-:21] 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)([H:10])C5C1C2C3C54>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:22]1.[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].C1[C:63]2=[C:62]([CH:11]([H:10])[C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[C:22]2[O-:23].C1[C:63]2=[C:62]([CH+:11][C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:61]([O-:10])=[O:62])C=C1.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:22]1=[C:21]([CH:20]([O:10][C:61](C2=CC=CC=C2)=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10=20;20,21=21,22;22,23=23"
"CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64](C)=[C:63](C)[S:62]1.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64](C)=[C:63](C)[S:62]1)[CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12.[H:10][CH:11]1[C:12]2=[C:13]([O:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N:42]O[N:35]=[C:34]12.[CH:11]1=[C:12]2[C:13](=[O+:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:61](=[O:62])(=[O:72])[N:10]=[C:11]2[O-:12].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C:20]([N:10]1[C:11](=[O:12])C2=C(C=CC=C2)[S:61]1(=[O:62])=[O:72])([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65 10,11=10,20;12=11,12"
